US07524852B2
Synthesis of tert-butyl 3-oxo-4-(3-pyrrolidin-1-yl-propyl)piperazinecarboxylate for use in the synthesis of Compound 3-31
Tert-butyl 3-oxo-piperazinecarboxylate (1.5 g, 7.5 mmol) was dissolved in tetrahydrofuran (15 mL), and the solution was mixed with sodium bis(trimethylsilyl)amide (1.0 mol/L, 15 mL, 15 mmol) added dropwise with stirring under ice-cooling. After ten minutes, 1,3-dibromopropane (3.0 mL, 30 mmol) was added dropwise. The reaction mixture was heated to 50° C., was stirred for three hours, was poured onto water and was extracted with ethyl acetate. The organic layer was washed with brine, was dried over anhydrous sodium sulfate, and the solvent was distilled off. The residue was purified by silica gel chromatography (hexane:ethyl acetate=1:2) to thereby remove residual raw materials, and the solvent was distilled off. The residue was dissolved in dimethylformamide (12 mL), and the solution was mixed with pyrrolidine (1.6 mL, 19 mmol) and potassium carbonate (0.57 g, 4.1 mmol), followed by stirring at 80° C. for eight hours. The reaction mixture was diluted with water and was extracted with ethyl acetate. The organic layer was mixed with diluted hydrochloric acid (1.0 mol/L, 30 mL), and the organic layer and the aqueous layer were separated. The aqueous layer was adjusted to be basic with an aqueous sodium hydroxide solution (2.0 mol/L) and was extracted with ethyl acetate. The organic layer was washed with brine, was dried over anhydrous sodium sulfate, and the solvent was distilled off. The residue was purified by silica gel chromatography (chloroform:7.0 mol/L ammonia methanol solution=30:1) and thereby yielded tert-butyl 3-oxo-4-(3-pyrrolidin-1-yl-propyl)piperazinecarboxylate (0.16 g, 6.8%).

reactant | Tert-butyl 3-oxo-piperazinecarboxylate | 7.5 mmol, 1.5 g | O=C1CN(CCN1)C(=O)OC(C)(C)C | C9H16N2O3
reactant | sodium bis(trimethylsilyl)amide | 15 mmol, 1.0 mol/L, 15 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1,3-dibromopropane | 30 mmol, 3.0 mL | BrCCCBr | C3H6Br2
reactant | pyrrolidine | 19 mmol, 1.6 mL | N1CCCC1 | C4H9N
reactant | potassium carbonate | 4.1 mmol, 0.57 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl 3-oxo-4-(3-pyrrolidin-1-yl-propyl)piperazinecarboxylate | O=C1CN(CCN1CCCN1CCCC1)C(=O)OC(C)(C)C | C16H29N3O3
